US08133882B2
52 mg of [7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl](hydroxy)acetic acid was dissolved in 10 ml of methanol, and 0.4 ml of concentrated sulfuric acid was added, followed by stirring at room temperature for 1 hour. Aqueous saturated sodium hydrogen carbonate was added to the reaction mixture, followed by extraction with ethyl acetate, washing with aqueous saturated sodium chloride and concentration under a reduced pressure. The resulting residue was recrystallized from aqueous methanol to obtain 53 mg of methyl[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl](hydroxy)acetate.

reactant | [7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl](hydroxy)acetic acid | 52 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C(C(=O)O)O)=O)F | C22H27FN2O4
reactant | sulfuric acid | 0.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | methyl[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl](hydroxy)acetate | 53 mg | COC(C(O)C1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C1CCCC1)=O | C23H29FN2O4
